US06596461B1
1) Preparation of 1-(2-nitro-2-methylpropylamino)propan-2-ol
Following the procedure described below in EXAMPLE 4A, step 1, 526.3 g (6.66 mol) of 1-amino-2-propanol (95%) are reacted with 561.6 g (6.05 mol) of 2-nitropropane (96%) and 181.7 g (6.05 mol) of paraformaldehyde in 100 ml of isopropanol to give the product which is used in the following reaction without any isolation.

reactant | 1-amino-2-propanol | 6.66 mol, 526.3 g | NCC(C)O | C3H9NO
reactant | 2-nitropropane | 6.05 mol, 561.6 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | paraformaldehyde | 6.05 mol, 181.7 g | C=O | CH2O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-(2-nitro-2-methylpropylamino)propan-2-ol | [N+](=O)([O-])C(CNCC(C)O)(C)C | C7H16N2O3
